US07435744B2
42a) [4-(4-tert-Butyl-benzyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester
The title compound is prepared from [4-(4-tert-butyl-benzyl)-piperidin-1-yl]-oxo-acetic acid and 6-amino-3H-benzoxazol-2-one according to the method described in Example 2. The filtered crystals are purified by column chromatography using Kieselgel 60 (Merck) as adsorbent and toluene:methanol=4:1 as eluent. Melting Point: 168° C. (diethylether-hexane-diisopropyl ether).

reactant | [4-(4-tert-butyl-benzyl)-piperidin-1-yl]-oxo-acetic acid | C(C)(C)(C)C1=CC=C(CC2CCN(CC2)C(C(=O)O)=O)C=C1 | C18H25NO3
reactant | 6-amino-3H-benzoxazol-2-one | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
product | [4-(4-tert-Butyl-benzyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester | C(C)OC(C(=O)N1CCC(CC1)CC1=CC=C(C=C1)C(C)(C)C)=O | C20H29NO3
